US07723368B2
Step 3) {3-[3-(2-Fluoro-ethyl)-cyclobutyl]-phenylethynyl}-triisopropyl-silane
In a CEM snap top microwave vial were combined 1-Bromo-3-[3-(2-fluoro-ethyl)-cyclobutyl]-benzene (0.250 gm 9.72 mmol), triisopropylsilylacetylene (0.22 gm, 1.21 mmol), copper iodide (7 mg, 0.178 mmol), tetrakis(triphenylphosphine)palladium (22 mg, 0.088 mmol) and triethylamine (0.600 g, 5.93 mmol). The vial was quickly agitated then irradiated in a CEM Explorer™ microwave instrument for 30 minutes at 80° C. Purification by column chromatography (hexanes) afforded an oil 349 mg. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.06 (s, 21H) 1.62-1.81 (m, 2H) 1.82-1.97 (m, 1H) 2.00-2.45 (m, 4H) NMR (400 MHz, DMSO-d6) δ ppm 3.31-3.62 (m, 1H) 4.30-4.51 (m, 2H) 7.17-7.41 (m, 4H); MS (EI) m/z 256 [M+·].

reactant | 1-Bromo-3-[3-(2-fluoro-ethyl)-cyclobutyl]-benzene | 9.72 mmol, 0.250 gm | BrC1=CC(=CC=C1)C1CC(C1)CCF | C12H14BrF
reactant | triisopropylsilylacetylene | 1.21 mmol, 0.22 gm | C(C)(C)[Si](C(C)C)(C(C)C)C#C | C11H22Si
reactant | triethylamine | 5.93 mmol, 0.600 g | C(C)N(CC)CC | C6H15N
catalyst | copper iodide | 0.178 mmol, 7 mg | [Cu](I)I
catalyst | tetrakis(triphenylphosphine)palladium | 0.088 mmol, 22 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {3-[3-(2-Fluoro-ethyl)-cyclobutyl]-phenylethynyl}-triisopropyl-silane | 349 mg | FCCC1CC(C1)C=1C=C(C=CC1)C#C[Si](C(C)C)(C(C)C)C(C)C | C23H35FSi
